US07592362B2
1-(3-Methoxy-2-methylphenyl)ethanone
A solution of 2-methyl-3-methoxybenzoic acid (10.0 g, 60.2 mmol) in thionyl chloride (50 ml) was heated at reflux for 1 h and then cooled and concentrated in vacuo. To the residue was added tetrahydrofuran (100 ml) and iron (III) acetylacetonate (638 mg, 1.8 mmol) and the solution was cooled to −20° C., before addition of methylmagnesium bromide (3M in diethyl ether, 22.1 ml, 66.2 mmol). After stirring for 15 min, the mixture was poured into saturated aqueous ammonium chloride solution and extracted with dichloromethane. The combined extracts were washed with saturated aqueous sodium hydrogen carbonate solution, dried (MgSO4) and concentrated in vacuo.

reactant | 2-methyl-3-methoxybenzoic acid | 60.2 mmol, 10.0 g | CC1=C(C(=O)O)C=CC=C1OC | C9H10O3
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | methylmagnesium bromide | 66.2 mmol, 3M, 22.1 ml | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | iron (III) acetylacetonate | 1.8 mmol, 638 mg | C/C(=C/C(=O)C)/O.C/C(=C/C(=O)C)/O.C/C(=C/C(=O)C)/O.[Fe]
product | 1-(3-Methoxy-2-methylphenyl)ethanone | COC=1C(=C(C=CC1)C(C)=O)C | C10H12O2
